US07629494B2
Potassium carbonate (21.3 g, 154 mmol) was added to a solution of 2-chloro-6-cyclopropylphenyl acetate (16.3 g, 77 mmol) in methanol (80 ml) at once and the mixture was stirred at room temperature for 90 minutes. After water (240 ml) was added to the reaction mixture, the resulting mixture was concentrated by an evaporator to remove most of methanol. The obtained mixture was cooled to 0° C. and 4M hydrochloric acid was added thereto to make pH to 2 or lower such that the temperature of the mixture did not exceed 25° C. This was extracted with a 10% ethyl acetate-90% hexane (V/V) solvent mixture. The organic layer was combined and washed with a saturated aqueous NaCl solution, followed by drying with anhydrous sodium sulfate (90 g). After the solid was removed by filtration, the filtrate was concentrated to obtain a pale brown oil. This oil was purified by silica gel column chromatography (use of 120 g of Wakogel C-100E) to obtain 10.1 g of 2-chloro-6-cyclopropylphenol.

reactant | Potassium carbonate | 154 mmol, 21.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-6-cyclopropylphenyl acetate | 77 mmol, 16.3 g | C(C)(=O)OC1=C(C=CC=C1C1CC1)Cl | C11H11ClO2
reactant | water | 240 ml | O | H2O
solvent | methanol | 80 ml | CO | CH4O
product | 2-chloro-6-cyclopropylphenol | 10.1 g | ClC1=C(C(=CC=C1)C1CC1)O | C9H9ClO
